US05654484
Step B: N,N'-Bis[3-(ethylamino)butyl]-1,7-diaminoheptane tetrahydrochloride
Add 1N HCl in methanol (50 ml) to 1,17-diethyl-2,16-dimethyl-1,5,13,17-tetra(t-butoxycarbonyl)-1,5,13,17-tetraazaheptadecane (3.9 g, 0.0054 mol) and stir overnight. Remove the solvent in vacuo and recrystallize the residue two times from methanol/acetonitrile (40/60, v/v) to yield 0.90 g of the title compound as a white solid (mp 249°-50 ° C.). Rf is 0.56 for TLC on silica gel developed with 40% conc. ammonia in methanol.

reactant | HCl | 1N | Cl | ClH
reactant | 1,17-diethyl-2,16-dimethyl-1,5,13,17-tetra(t-butoxycarbonyl)-1,5,13,17-tetraazaheptadecane | 0.0054 mol, 3.9 g | C(C)N(C(CCN(CCCCCCCN(CCC(N(C(=O)OC(C)(C)C)CC)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C)C(=O)OC(C)(C)C | C39H76N4O8
solvent | methanol | 50 ml | CO | CH4O
product | N,N'-Bis[3-(ethylamino)butyl]-1,7-diaminoheptane tetrahydrochloride | 0.90 g | Cl.Cl.Cl.Cl.C(C)NC(CCNCCCCCCCNCCC(C)NCC)C | InChI=1S/C19H44N4.4ClH/c1-5-22-18(3)12-16-20-14-10-8-7-9-11-15-21-17-13-19(4)23-6-2;;;;/h18-23H,5-17H2,1-4H3;4*1H
